US06228829B1
Synthesis of 7-Methylundecene-1-ol
Into a dried 1L 3 neck round bottom flask fitted with a nitrogen inlet, dropping funnel, thermometer, mechanical stirring and nitrogen outlet is added chloroform (300 ml) and 7-methylundecanol (93 g, 0.5 mol). Chlorosulfonic acid (60 g, 0.509 mol) is slowly added to the stirred mixture while maintaining 25-30° C. temperature with a ice bath. Once HCl evolution has stopped (1 hr.) slowly add sodium methoxide (25% in methanol) while keeping temperature at 25-30° C. until an aliquot at 5% concentration in water maintains a pH of 10.5. To the mixture is added hot ethanol (55° C., 2L). The mixture is vacuum filtered immediately. The filtrate is concentrated to a slurry on a rotary evaporator, cooled and then poured into 2L of ethyl ether. The mixture is chilled to 5° C., at which point crystallization occurs, and vacuum filtered. The crystals are dried in a vacuum oven at 50C for 3 hrs. to obtain a white solid.

reactant | 7-methylundecanol | 0.5 mol, 93 g | CC(CCCCCCO)CCCC | C12H26O
reactant | Chlorosulfonic acid | 0.509 mol, 60 g | ClS(=O)(=O)O | ClHO3S
reactant | HCl | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Methylundecene-1-ol | CC(CCCCC=CO)CCCC | C12H24O
